US09428510B2
1.045 ml (13.57 mmol) of trifluoroacetic acid, 1 g (7.46 mmol) of 4,4-difluorocyclohexanone and 2.158 g (8.20 mmol) of tetramethylammonium triacetoxyborohydride are added to 1.521 g (5.22 mmol) of tert-butyl 2-amino-4-(4-methylpiperazin-1-yl)benzoate dissolved in 60 ml of dichloromethane. The reaction is left under stirring at room temperature for 24 hours. The solvent is evaporated and then the crude reaction product is redissolved in 30 ml of ethyl acetate. The solution is successively washed with 0.5 M HCl solution, 0.5 M soda solution and finally with saturated NaHCO3 solution. The organic phase is dried on sodium sulfate, filtered and concentrated to obtain 2.2 g of tert-butyl 2-(4,4-difluorocyclohexylamino)-4-(4-methylpiperazin-1-yl)benzoate in the form of a light brown gum (yield=72%).

reactant | trifluoroacetic acid | 13.57 mmol, 1.045 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4,4-difluorocyclohexanone | 7.46 mmol, 1 g | FC1(CCC(CC1)=O)F | C6H8F2O
reactant | tetramethylammonium triacetoxyborohydride | 8.20 mmol, 2.158 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | tert-butyl 2-amino-4-(4-methylpiperazin-1-yl)benzoate | 5.22 mmol, 1.521 g | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)N1CCN(CC1)C | C16H25N3O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-(4,4-difluorocyclohexylamino)-4-(4-methylpiperazin-1-yl)benzoate | 2.2 g | FC1(CCC(CC1)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)N1CCN(CC1)C)F | C22H33F2N3O2
